US04012413
A stirred mixture of 8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetonitrile (1.00 g., 0.003 mole) methanol (2 ml.) and ether (6 ml.) is cooled in a salt-ice bath saturated with a stream of anhydrous hydrogen chloride during 15 minutes. The mixture is allowed to warm slowly to ambient temperature and stand for 18 hours; it is then poured into water. This mixture is neutralized with sodium bicarbonate and extracted with chloroform. The extract is washed with brine, dried over anhydrous magnesium sulfate and then concentrated. The residue is crystallized from methanol to give 0.149 g. of a by-product of melting point 184.5°-188° C. (d). The mother liquor is crystallized from methanol-ethyl acetate to give 0.126 g. of a by-product of melting point 205.5°-207.5° C. (d). The mother liquor from this crystallization is concentrated and chromatographed on silica gel (50 g.) with 2% methanol-98% chloroform. The first compound eluted from the column is crystallized from methanol-ethyl acetate to give 8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetic acid methyl ester in two crops: 0.169 g. of melting point 202°-203.5° C. (d.) and 0.125 g. of melting point 200.5°-202.5° C. (d.). The analytical sample had a melting point of 202°-203° C.

reactant | 8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetonitrile | 0.003 mole, 1.00 g | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CC#N)C3=CC=CC=C3)C1 | C18H12ClN5
reactant | methanol | 2 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | ether | 6 ml | CCOCC | C4H10O
product | 8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetic acid methyl ester | COC(CC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl)=O | C19H15ClN4O2
